US06391887B1
4-Amino-6,8-dichloro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 6,8-dichloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (100 mg, 0.37 mmol) is reacted with 7N methanolic ammonia solution (20 ml) to form 70 mg (74%) of product.

reactant | 6,8-dichloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.37 mmol, 100 mg | ClC1=CC(=CC=2C3C(C(NC12)=S)CCC3)Cl | C12H11Cl2NS
reactant | ammonia | 7N, 20 ml | N | H3N
product | 4-Amino-6,8-dichloro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 70 mg, 74% | NC1=NC=2C(=CC(=CC2C2C1CCC2)Cl)Cl | C12H12Cl2N2
